* PEX produced on Fri Jul 31 11:04:37 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from inverter_pex.ext - technology: ihp-sg13g2

.subckt inverter_pex vin VSS VDD vout
X0 VSS.t18 vin vout VSS.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X1 VSS.t36 VSS.t34 VSS.t30 VSS.t35 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
X2 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X3 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X4 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X5 vout vin VSS.t15 VSS.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X6 vout vin VSS.t1 VSS.t0 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VSS.t1 VSS.t31 VSS.t33 VSS.t32 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X9 VSS.t24 vin vout VSS.t23 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 vout vin VSS.t21 VSS.t22 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X11 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X12 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X13 VSS.t9 vin vout VSS.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X14 VSS.t30 vin vout VSS.t29 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X15 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X18 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X19 VSS.t15 vin vout VSS.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X20 vout vin VSS.t27 VSS.t28 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X21 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X22 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X23 VDD VDD VDD VDD sg13_lv_pmos ad=2.04p pd=12.68u as=0.14199n ps=0.28418m w=6u l=1u
X24 vout vin VSS.t6 VSS.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X25 VSS.t21 vin vout VSS.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X26 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X27 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X28 VSS.t6 vin vout VSS.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X30 VSS.t27 vin vout VSS.t26 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X31 VSS.t3 vin vout VSS.t2 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X32 vout vin VSS.t12 VSS.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X33 vout vin VSS.t3 VSS.t4 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 vout vin VSS.t24 VSS.t25 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X35 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X36 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X37 VSS.t12 vin vout VSS.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X38 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X39 VDD VDD VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X40 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X41 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X42 vout vin VSS.t9 VSS.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X43 vout vin VSS.t18 VSS.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
R0 VSS.t29 VSS.n18 185.599
R1 VSS.n17 VSS.t28 174.508
R2 VSS.n22 VSS.t26 163.417
R3 VSS.n8 VSS.t25 152.327
R4 VSS.n6 VSS.t23 141.236
R5 VSS.n7 VSS.t22 130.145
R6 VSS.n15 VSS.t14 119.055
R7 VSS.n3 VSS.t20 119.055
R8 VSS.n4 VSS.t19 107.965
R9 VSS.n10 VSS.t17 96.8741
R10 VSS.n19 VSS.t16 85.7837
R11 VSS.n20 VSS.t8 74.6929
R12 VSS.n9 VSS.t7 63.6017
R13 VSS.n21 VSS.t5 52.5118
R14 VSS.n11 VSS.t4 41.422
R15 VSS.t35 VSS.n12 7.82894
R16 VSS.t0 VSS.n16 185.597
R17 VSS.t2 VSS.n11 174.507
R18 VSS.n13 VSS.t11 96.8751
R19 VSS.n16 VSS.t2 30.3314
R20 VSS.n2 VSS.n18 0.00162059
R21 VSS.n18 VSS.t28 30.3309
R22 VSS.n17 VSS.t26 41.4215
R23 VSS.n22 VSS.t25 52.5121
R24 VSS.n2 VSS.n8 0.00162059
R25 VSS.n8 VSS.t23 63.6027
R26 VSS.n6 VSS.t22 74.6937
R27 VSS.n2 VSS.n7 0.00162059
R28 VSS.n7 VSS.t20 85.7838
R29 VSS.n2 VSS.n3 0.00162059
R30 VSS.n3 VSS.t19 96.8744
R31 VSS.n4 VSS.t17 107.965
R32 VSS.n2 VSS.n19 0.00151296
R33 VSS.n19 VSS.t14 85.784
R34 VSS.n2 VSS.n5 0.00162059
R35 VSS.n2 VSS.n13 0.00161544
R36 VSS.n14 VSS.t8 130.147
R37 VSS.n9 VSS.t5 152.327
R38 VSS.n2 VSS.n11 0.00187013
R39 VSS.n2 VSS.n16 0.00187013
R40 VSS.n1 VSS.t34 0.00573464
R41 VSS.n2 VSS.n1 0.859865
R42 VSS.n36 VSS.n2 17.0005
R43 VSS.n35 VSS.n2 17.0005
R44 VSS.n38 VSS.t36 17.0005
R45 VSS.n37 VSS.t36 17.0005
R46 VSS.n39 VSS.t30 17.0005
R47 VSS.t30 VSS.n37 17.0005
R48 VSS.n39 VSS.t36 17.0005
R49 VSS.t30 VSS.n38 17.0005
R50 VSS.n2 VSS.n49 17.0005
R51 VSS.n46 VSS.n2 17.0005
R52 VSS.n2 VSS.n26 17.0005
R53 VSS.n48 VSS.t1 17.0005
R54 VSS.t1 VSS.n47 17.0005
R55 VSS.t1 VSS.n45 17.0005
R56 VSS.n47 VSS.t33 17.0005
R57 VSS.t33 VSS.n45 17.0005
R58 VSS.n48 VSS.t33 17.0005
R59 VSS.n23 VSS.n2 0.00102515
R60 VSS.n14 VSS.t10 85.7835
R61 VSS.n23 VSS.t32 7.82728
R62 VSS.n21 VSS.t4 163.418
R63 VSS.n20 VSS.t7 141.238
R64 VSS.n13 VSS.t10 119.055
R65 VSS.n5 VSS.t11 107.965
R66 VSS.n15 VSS.t13 96.8751
R67 VSS.n10 VSS.t16 119.056
R68 VSS.t29 VSS.n12 19.2407
R69 VSS.n25 VSS.n2 0.909038
R70 VSS.n25 VSS.n51 0.146898
R71 VSS.n2 VSS.n24 0.00823896
R72 VSS.t34 VSS.n61 3.0005
R73 VSS.n50 VSS.t31 3.0005
R74 VSS.n52 VSS.t3 2.4821
R75 VSS.n53 VSS.t6 2.4821
R76 VSS.n54 VSS.t9 2.4821
R77 VSS.n55 VSS.t12 2.4821
R78 VSS.n57 VSS.t18 2.4821
R79 VSS.n58 VSS.t21 2.4821
R80 VSS.n59 VSS.t24 2.4821
R81 VSS.n60 VSS.t27 2.4821
R82 VSS.n2 VSS.n34 2.09947
R83 VSS.n2 VSS.n33 2.09947
R84 VSS.n2 VSS.n32 2.09947
R85 VSS.n2 VSS.n31 2.09947
R86 VSS.n62 VSS.n2 2.09947
R87 VSS.n2 VSS.n30 2.09947
R88 VSS.n2 VSS.n29 2.09947
R89 VSS.n2 VSS.n28 2.09947
R90 VSS.n37 VSS.n24 1.43788
R91 VSS.n61 VSS.n39 1.52811
R92 VSS.n50 VSS.n45 1.52811
R93 VSS.n2 VSS.n6 0.00187013
R94 VSS.n5 VSS.t13 107.965
R95 VSS.n2 VSS.n9 0.00187013
R96 VSS.n2 VSS.n21 0.00161544
R97 VSS.n2 VSS.n20 0.00161544
R98 VSS.n2 VSS.n14 0.00162059
R99 VSS.n2 VSS.n15 0.00161544
R100 VSS.n2 VSS.n10 0.00161544
R101 VSS.n2 VSS.n4 0.00162059
R102 VSS.n2 VSS.n22 0.00162059
R103 VSS.n2 VSS.n17 0.00162059
R104 VSS.n2 VSS.n12 0.00103508
R105 VSS.n23 VSS.t0 19.241
R106 VSS.t34 VSS.n0 0.147554
R107 VSS.n61 VSS.n60 0.209825
R108 VSS.n52 VSS.n50 0.209825
R109 VSS.t3 VSS.n51 0.201663
R110 VSS.t6 VSS.n44 0.201663
R111 VSS.t9 VSS.n43 0.201663
R112 VSS.t12 VSS.n27 0.201663
R113 VSS.t18 VSS.n42 0.201663
R114 VSS.t21 VSS.n41 0.201663
R115 VSS.t24 VSS.n40 0.201663
R116 VSS.t27 VSS.n0 0.201663
R117 VSS.n53 VSS.n52 0.16242
R118 VSS.n54 VSS.n53 0.16242
R119 VSS.n55 VSS.n54 0.16242
R120 VSS.n56 VSS.n55 0.16242
R121 VSS.n57 VSS.n56 0.16242
R122 VSS.n58 VSS.n57 0.16242
R123 VSS.n59 VSS.n58 0.16242
R124 VSS.n60 VSS.n59 0.16242
R125 VSS.n51 VSS.n28 0.0952183
R126 VSS.n44 VSS.n29 0.0927738
R127 VSS.n0 VSS.n34 0.0925656
R128 VSS.n43 VSS.n30 0.0903294
R129 VSS.n31 VSS.t15 0.0903294
R130 VSS.n40 VSS.n33 0.0901212
R131 VSS.n62 VSS.n27 0.0878849
R132 VSS.n42 VSS.n32 0.0878849
R133 VSS.n41 VSS.n32 0.0876767
R134 VSS.n62 VSS.t15 0.0876767
R135 VSS.n41 VSS.n33 0.0854405
R136 VSS.n30 VSS.n27 0.0852323
R137 VSS.n42 VSS.n31 0.0852323
R138 VSS.n40 VSS.n34 0.082996
R139 VSS.n43 VSS.n29 0.0827878
R140 VSS.n44 VSS.n28 0.0803434
R141 VSS.n56 VSS.t15 0.0394179
R142 VSS.t31 VSS.n25 0.0827981
R143 VSS.t31 VSS.n26 0.0133922
R144 VSS.n39 VSS.n36 0.00798582
R145 VSS.n39 VSS.n35 0.00798582
R146 VSS.n46 VSS.n45 0.00798582
R147 VSS.n49 VSS.n45 0.00798582
R148 VSS.n38 VSS.n1 0.0965628
R149 VSS.n38 VSS.n36 0.00756994
R150 VSS.n37 VSS.n35 0.00756994
R151 VSS.n47 VSS.n26 0.00756994
R152 VSS.n47 VSS.n46 0.00756994
R153 VSS.n49 VSS.n48 0.00756994
R154 VSS.n24 VSS.n48 1.37702
C0 VDD vout 15.0304f
C1 VDD vin 28.614f
C2 vin vout 18.1624f
C3 vout 0 12.00912f
C4 VSS.t18 0 7.4841f
.ends

